US09210927B2
Preparation of 2-(3-Nitro-1H-1,2,4-triazol-1-yl)-5-vinylbenzonitrile (DI62)
To a stirred solution of 5-formyl-2-(3-nitro-1H-1,2,4-triazol-1-yl)benzonitrile (0.36 g, 1.49 mmol) in 1,4-dioxane (25 mL), were added K2CO3 (0.3 g, 2.2 mmol) and methyl triphenyl phosphonium bromide (0.63 g, 1.79 mmol). The resultant reaction mixture was heated to 100° C. for 18 h. After completion of the reaction (TLC), the reaction mixture was cooled to room temperature and filtered and the obtained filtrate was concentrated under reduced pressure. Purification by flash chromatography (SiO2, 100-200 mesh; 25-30% EtOAc in petroleum ether) to afford the title compound as a solid (0.25 g, 70%): mp 103-105° C.; 1H NMR (400 MHz, DMSO-d6) δ 9.50 (s, 1H), 8.34 (m, 1H), 7.98 (d, J=7.8 Hz, 1H), 7.68 (d, J=7.8 Hz, 1H), 6.87 (m, 1H), 6.20 (d, J=15.7 Hz, 1H), 5.56 (d, J=11.8 Hz, 1H); ESIMS m/z 240.27 ([M−H]−); IR (thin film) 2240, 1514, 1312 cm−1.

reactant | 5-formyl-2-(3-nitro-1H-1,2,4-triazol-1-yl)benzonitrile | 1.49 mmol, 0.36 g | C(=O)C=1C=CC(=C(C#N)C1)N1N=C(N=C1)[N+](=O)[O-] | C10H5N5O3
reactant | K2CO3 | 2.2 mmol, 0.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | methyl triphenyl phosphonium bromide | 1.79 mmol, 0.63 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3-Nitro-1H-1,2,4-triazol-1-yl)-5-vinylbenzonitrile | 0.25 g, 70% | [N+](=O)([O-])C1=NN(C=N1)C1=C(C#N)C=C(C=C1)C=C | C11H7N5O2
